US09353075B2
Step 3. Preparation of (2S*,3R*)-2-amino-3-hydr oxy-pentanoic acid
In a 35 ml microwave vial, ethyl (2S*,3R*)-2-amino-3-hydr oxy-pentanoate (0.078 g, 0.48 mmol) was dissolved in a 6.0 M HCl aqueous solution (7.0 mL) and stirred at 130° C. for 30 min. The reaction mixture was concentrated under reduced pressure and the resulting yellowish solid was used without further purification in the following step. MS (ESI) m/z: 134 [M−H]+; (ESI) m/z: 132 [M−H]−.

reactant | ethyl (2S*,3R*)-2-amino-3-hydr oxy-pentanoate | 0.48 mmol, 0.078 g | N[C@H](C(=O)OCC)[C@@H](CC)O | C7H15NO3
solvent | HCl | 6.0 M, 7.0 mL | Cl | ClH
product | (2S*,3R*)-2-amino-3-hydr oxy-pentanoic acid | N[C@H](C(=O)O)[C@@H](CC)O | C5H11NO3
